US04857656
Synthesis of benzyloxycarbonylglycine
In 50 ml of water was suspended 2.5 g of N-(benzyloxycarbonyloxy)succinimide, and the suspension was stirred for 1 hour at room temperature. To this suspension was added 20 ml of an aqueous solution of 0.75 g of glycine and 1.4 ml of triethylamine, and the reaction mixture was stirred for 12 hours as it was, but the desired product, benzyloxycarbonylglycine, could not be obtained.

reactant | N-(benzyloxycarbonyloxy)succinimide | 2.5 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | glycine | 0.75 g | NCC(=O)O | C2H5NO2
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | water | 50 ml | O | H2O
product | benzyloxycarbonylglycine | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
